US08377957B2
THF (100 mL) and 1,1′-carbonyldiimidazole (10.6 g, 65.6 mmol) were sequentially added to a solution of 2-chloro-N4-[(1S)-1-phenylethyl]quinoline-3,4-diamine (13.0 g, 43.7 mmol) in pyridine (100 mL), and the reaction was heated at 90° C. for one hour. An analysis by LC/MS indicated the presence of starting material, and additional 1,1′-carbonyldiimidazole (3 equivalents) was added as heating at 90° C. was continued overnight. The reaction was still incomplete, and additional 1,1′-carbonyldiimidazole (3 equivalents) was added in portions as heating at 90° C. was continued for a second night. The reaction was cooled to approximately 0° C., and water (300 mL) was added. The mixture was stirred for two hours. A precipitate was present and was isolated by filtration, washed with water, and dried overnight in a vacuum oven to provide 9.98 g of 4-chloro-1-[(1S)-1-phenylethyl]-1H-imidazo[4,5-c]quinolin-2-ol.

reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | 1,1′-carbonyldiimidazole | 65.6 mmol, 10.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-chloro-N4-[(1S)-1-phenylethyl]quinoline-3,4-diamine | 43.7 mmol, 13.0 g | ClC1=NC2=CC=CC=C2C(=C1N)N[C@@H](C)C1=CC=CC=C1 | C17H16ClN3
reactant | 1,1′-carbonyldiimidazole | 3 equivalents | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,1′-carbonyldiimidazole | 3 equivalents | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | 300 mL | O | H2O
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 4-chloro-1-[(1S)-1-phenylethyl]-1H-imidazo[4,5-c]quinolin-2-ol | 9.98 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2[C@@H](C)C2=CC=CC=C2)O | C18H14ClN3O
